US08236835B2
Synthesis of N-benzyl-4-methyl-2-(2-oxo-3-(3-phenylpropyl)piperidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 3, making variations as required to use 3-phenylpropanal in place of cyclopropanecarbaldehyde to react with N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide in place of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide, the title compound was obtained as a white solid in 10% yield: mp 140-141° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.37-7.10 (m, 10H), 5.98 (t, J=4.7 Hz, 1H), 4.55 (d, J=5.3 Hz, 2H), 4.31-4.19 (m, 1H), 4.04-3.91 (m, 1H), 2.69-2.47 (m, 6H), 2.11-1.78 (m, 4H), 1.76-1.53 (m, 4H); 13C NMR (75 MHz, CDCl3) δ 172.8, 162.7, 157.0, 152.2, 142.0, 137.9, 128.8, 128.4, 128.3, 127.9, 127.6, 125.9, 119.2, 47.9, 44.1, 42.2, 35.9, 31.4, 28.9, 25.5, 21.3, 17.4; MS (ES+) m/z 448.21 (M+1).

reactant | 3-phenylpropanal | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCCC1)=O)C | C17H19N3O2S
product | N-benzyl-4-methyl-2-(2-oxo-3-(3-phenylpropyl)piperidin-1-yl)thiazole-5-carboxamide | 10% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)CCCC1=CC=CC=C1)=O)C | C26H29N3O2S
